US05773448
3,3-Dimethyl-1-(2-hydroxyethyl)-1,3-dihydro-2H-indol-2-one (2.05 g, 10 mmol) and triethylamine (1.1 g, 10.9 mmol) was dissolved in dichloromethane under nitrogen and cooled to less than 5° C. in an ice/water bath. Methanesulfonyl chloride (1.3 g, 11.3 mmol) was added and the mixture was stirred for one hour with cooling. The mixture was washed with cold dilute hydrochloric acid, dried (MgSO4), filtered and concentrated under reduced pressure. The resulting oil was dissolved in dry acetonitrile, 4-fluorobenzoylpiperidine para toluenesulfonate (Acros, 2.83 g, 11.7 mmol) potassium carbonate (3 g, 21.7 mmol) and potassium iodide (0.15 g, 0.9 mmol) were added. The mixture was stirred vigorously and heated under gentle reflux for two days. The mixture was poured into chloroform, washed with water, dried (MgSO4), filtered and concentrated under reduced pressure. The resulting oil was taken up in 5N hydrochloric acid whereupon a white solid separated. This solid was recrystallised from ethanol to give 3,3-dimethyl-1-{2-[4-(4-fluorobenzoyl)-1-piperidinyl]-1-ethyl}-1,3-dihydro-2H-indol-2-one monohydrochloride. Melting point 236°-8° C.

reactant | 3,3-Dimethyl-1-(2-hydroxyethyl)-1,3-dihydro-2H-indol-2-one | 10 mmol, 2.05 g | CC1(C(N(C2=CC=CC=C12)CCO)=O)C | C12H15NO2
reactant | triethylamine | 10.9 mmol, 1.1 g | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 11.3 mmol, 1.3 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-fluorobenzoylpiperidine para toluenesulfonate | 11.7 mmol, 2.83 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.FC1=CC=C(C(=O)N2CCCCC2)C=C1
reactant | potassium carbonate | 21.7 mmol, 3 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.9 mmol, 0.15 g | [I-].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3,3-dimethyl-1-{2-[4-(4-fluorobenzoyl)-1-piperidinyl]-1-ethyl}-1,3-dihydro-2H-indol-2-one monohydrochloride | Cl.CC1(C(N(C2=CC=CC=C12)CCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O)=O)C | InChI=1S/C24H27FN2O2.ClH/c1-24(2)20-5-3-4-6-21(20)27(23(24)29)16-15-26-13-11-18(12-14-26)22(28)17-7-9-19(25)10-8-17;/h3-10,18H,11-16H2,1-2H3;1H
